US05229510
(b) t-Butyl 4-hydroxy-3-nitrobenzene-acetate
0-t-Butyl-N,N-diisopropyl-isourea (3.65 gm, 20 mmol) was added to a solution of 4-hydroxy-3-nitrobenzene-acetic acid (3.61 gm, 18.3 mmol) in t-butanol (18 mL) and stirred for 24 hours. Ethyl acetate (100 mL) was added and the solution washed successively with water 3×25 mL), 1N sodium bicarbonate solution 3×25 mL), and saturated salt solution (25 mL). The product was isolated as a yellow oil (1.02 gm, 22% yield) and used without further purification: 1H-NMR δ (CDCl3) 1.44 (9H, s), 3.52 (2H, s), 7.08 (2H, d, J=8 Hz), 7.51 (1H, dd, J=8, 3 Hz), 8.00 (1H, d, J=3 Hz).

reactant | 4-hydroxy-3-nitrobenzene-acetic acid | 18.3 mmol, 3.61 gm | OC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H7NO5
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | t-butanol | 18 mL | C(C)(C)(C)O | C4H10O
product | t-Butyl 4-hydroxy-3-nitrobenzene-acetate | 1.02 gm, 22% yield | OC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)[N+](=O)[O-] | C12H15NO5
